US05935973
A mixture of 2-hydroxy-5-methoxybenzaldehyde (6.65 g), (R)-glycidyl 4-toluenesulphonate (10.0 g) and potassium carbonate (6.1 g) in dry dimethylformamide (100 ml) was stirred and heated at 60° C. for five hours. The solvent was removed in vacuo, water was added to the residue and the mixture extracted with ether (2×200 ml). The combined extracts were washed with water and dried over magnesium sulphate. The solvent was evaporated and the residue purified by flash chromatography over silica eluting with a 2:1 mixture of ether and petroleum ether (b.p. 40-60° C.). Appropriate fractions were combined and the solvent evaporated to give (R)-2-(2,3-epoxypropoxy)-5-methoxybenzaldehyde (7.25 g) as a clear oil.

reactant | 2-hydroxy-5-methoxybenzaldehyde | 6.65 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | (R)-glycidyl 4-toluenesulphonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1CO1)C | C10H12O4S
reactant | potassium carbonate | 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (R)-2-(2,3-epoxypropoxy)-5-methoxybenzaldehyde | 7.25 g | O1[C@@H](COC2=C(C=O)C=C(C=C2)OC)C1 | C11H12O4
